US04697033
4-(1-Methylpropoxy)phenol (6.92 g, 41.6 mmol), ethylene carbonate (7.34 g, 83.2 mmol) and dimethylformamide (DMF; 45 ml) are mixed under N2. With stirring, the mixture is degassed (3X) by alternate application of vacuum and N2. Potassium carbonate (11.51 g, 83.2 mmol) is then added, under N2, and the mixture is heated at 90° for 27 hours. The reaction mixture is then poured into ice water and 10 ml of 40% potassium carbonate solution is added to increase the pH to 13. The aqueous phase is extracted with ether (3X) and the organic layers are washed with 40% KOH, with water until neutral and with brine, dried, filtered and the solvent evaporated to give 2-[4-(1-methylpropoxy)phenoxy]ethanol.

reactant | 4-(1-Methylpropoxy)phenol | 41.6 mmol, 6.92 g | CC(CC)OC1=CC=C(C=C1)O | C10H14O2
reactant | ethylene carbonate | 83.2 mmol, 7.34 g | C1(OCCO1)=O | C3H4O3
reactant | Potassium carbonate | 83.2 mmol, 11.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 10 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 2-[4-(1-methylpropoxy)phenoxy]ethanol | CC(CC)OC1=CC=C(OCCO)C=C1 | C12H18O3
